US04537773
Determination of IC50 value for compounds 5 with leucine aminopeptidase (microsomal) (LAPM)
Assay mixtures were prepared containing 0.613 μg LAPM, 10 μg/mL bovine serum albumin (BSA). 0.1M phosphate buffer, pH 7.2, in a total volume of 2.7 mL. Measured amounts of compounds 5 to be tested for inhibitory activity were added in additional 0.1M phosphate buffer to a total volume of 3 mL. After 72 hours at 0°-5°, 1 mL of the enzyme/inhibitor mixture was treated with 4 μL of 0.2M (L)-leucine-β-napthylamide in dimethylsulfoxide, and the rate of increase of fluorescence at 410 nm, while exciting at 310 nm. was measured. Control experiments were performed identically, except no inhibitor was present. The concentration of the selected compound 5 observed to decrease reaction rates by one-half was used to determine the value of IC50 for each compound. This was accomplished by subtracting one-half the concentration of enzyme present in the sample mixtures (1.6×10-9M) from the inhibitor concentration observed to decrease reaction rates by one-half. The results of these experiments are set forth in Table 2, above.

reactant | phosphate | 0.1M | P(=O)([O-])([O-])[O-]
reactant | phosphate | 0.1M | P(=O)([O-])([O-])[O-]
reactant | (L)-leucine-β-napthylamide | 0.2M, 4 μL | C1=C(C=CC2=CC=CC=C12)NC([C@@H](N)CC(C)C)=O | C16H20N2O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
